US08247415B2
(2S)-1-(1,3-benzothiazol-2-yl)pyrrolidine-2-carboxylic acid (i-14)
To a solution of 28 mg (0.24 mmol) of L-Proline in N,N-dimethylformamide (3 mL) at ambient temperature was added 51 mg (0.24 mmol) of 2-bromobenzothiazole, 100 mg (0.72 mmol) of potassium carbonate, and 6 mg (0.03 mmol) of copper iodide. The reaction mixture was stirred at 100° C. overnight. It was then filtered and purified by reverse-phase HPLC (TMC Pro-Pac C18; 0-60% 0.1% trifluoroacetic acid in acetonitrile/0.1% trifluoroacetic acid in water gradient). The pure fractions were lyophilized overnight to give 35 mg 60% of the title compound as a light brown solid. 1H NMR (DMSO-d6): δ 7.78 (d, J=8.0 Hz, 1H), 7.45 (d, J=8.0 Hz, 1H), 7.28 (t, J=7.8 Hz, 1H), 7.08 (t, J=7.8 Hz, 1H), 4.48 (d, J=7.3 Hz, 1H), 3.52-3.61 (m, 2H), 2.37 (m, 1H), 2.01-2.11 (m, 3H). LC/MS 249.3 (M+1)

reactant | L-Proline | 0.24 mmol, 28 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | 2-bromobenzothiazole | 0.24 mmol, 51 mg | BrC=1SC2=C(N1)C=CC=C2 | C7H4BrNS
reactant | potassium carbonate | 0.72 mmol, 100 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
catalyst | copper iodide | 0.03 mmol, 6 mg | [Cu](I)I
product | (2S)-1-(1,3-benzothiazol-2-yl)pyrrolidine-2-carboxylic acid | 35 mg, 60% | S1C(=NC2=C1C=CC=C2)N2[C@@H](CCC2)C(=O)O | C12H12N2O2S
